US05942340
Synthesis of 5,11 -di-m-tolyl-5,11 -dihydroindolo[3,2-b]carbazole (1):
A 200 milliliter 3-necked round bottom flask equipped with a mechanical stirrer, reflux condenser, and argon inlet was purged with argon and then charged with 5,11-dihydroindolo[3,2-b]carbazole (5.1 grams, 0.02 mol), 3-iodotoluene (8.69 grams, 0.04 mol), copper sulfate pentahydrate (0.25 gram, 1.0 mmol), potassium carbonate (5.52 grams, 0.04 mol), and n-tridecane (5.0 milliliters). Under an argon atmosphere, the reaction mixture was heated to about 250° C. with a heating mantle and allowed to proceed at that temperature until chromatographic analysis indicated that the reaction was complete after approximately 6 hours. The heating mantle was removed and the mixture was cooled to about 100° C., and 100 milliliters of toluene and 15 milliliters of water were then added with vigorous stirring. The resulting two phase mixture was transferred into a separatory funnel and the layers separated. The organic phase, which contains the desired product and solvent mixture, was washed with water and treated under argon with 25 grams of alumina. After the alumina was filtered off, the organic phase was evaporated to remove most of the toluene. The above product was obtained by recrystallization of the residue from cyclohexane. Yield: 6.8 grams. IR (Kbr): 1,604, 1,588, 1,490, 1,475, 1,450, 1,321, 1,201, 1,153, 760, 745, 701 cm-1. 1H-NMR (CDCl3): δ2.51 (s), 7.18-7.59 (m), 8.05 (s), 8.12 (d, J=8.5 Hz).

reactant | 5,11-dihydroindolo[3,2-b]carbazole | 0.02 mol, 5.1 grams | C1=C2C(=CC=C1)NC=1C2=CC=2NC3=CC=CC=C3C2C1 | C18H12N2
reactant | 3-iodotoluene | 0.04 mol, 8.69 grams | IC=1C=C(C=CC1)C | C7H7I
reactant | potassium carbonate | 0.04 mol, 5.52 grams | C([O-])([O-])=O.[K+].[K+]
reactant | n-tridecane | 5.0 milliliters | CCCCCCCCCCCCC | C13H28
catalyst | copper sulfate pentahydrate | 1.0 mmol, 0.25 gram | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 5,11 -di-m-tolyl-5,11 -dihydroindolo[3,2-b]carbazole | C1(=CC(=CC=C1)N1C2=CC=CC=C2C2=CC=3N(C4=CC=CC=C4C3C=C21)C=2C=C(C=CC2)C)C | C32H24N2
